US07919506B2
Preparation 13: (2-Bromo-4-methyl-5-(trifluoromethyl) benzyl) (3,5-bis(trifluoromethyl) benzyl) cyanamide
N-(2-Bromo-4-methyl-5-(trifluoromethyl)benzyl)(3,5-bis(trifluoromethyl)phenyl)methanamine (89 mg, 0.180 mmol) was dissolved in methanol (10 mL). To this solution was added sodium carbonate (53.9 mg, 0.396 mmol) followed by cyanogen bromide (5.0M solution in acetonitrile, 21.9 mg, 0.041 mL, 0.207 mmol). The solution stirred at room temperature for 20 hours then concentrated under reduced pressure to dryness. The residue was partitioned between water (10 mL) and ethyl acetate (50 mL). The aqueous layer was extracted with ethyl acetate (2×20 mL), the organics were combined and dried with anhydrous sodium sulfate, filtered, and concentrated under reduced pressure to give the title compound (97.5%). 1H NMR (400 MHz, CDCl3) δ 7.85 (s, 1H) 7.72 (s, 2H) 7.54 (s, 1H) 7.51 (s, 1H) 4.34(s, 4H) 2.45(s, 3H). LC-MS calc. 519, found 520 (M+H)

reactant | N-(2-Bromo-4-methyl-5-(trifluoromethyl)benzyl)(3,5-bis(trifluoromethyl)phenyl)methanamine | 0.180 mmol, 89 mg | BrC1=C(CNCC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C(=C1)C)C(F)(F)F | C18H13BrF9N
reactant | sodium carbonate | 0.396 mmol, 53.9 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | cyanogen bromide | 0.207 mmol, 5.0M, 0.041 mL, 21.9 mg | N#CBr | CBrN
solvent | methanol | 10 mL | CO | CH4O
product | (2-Bromo-4-methyl-5-(trifluoromethyl) benzyl) (3,5-bis(trifluoromethyl) benzyl) cyanamide | 97.5% | BrC1=C(CN(C#N)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C(=C1)C)C(F)(F)F | C19H12BrF9N2
